US06900216B2
Bromoacetyl bromide (16.14 g) was added dropwise at 0° C. under nitrogen to a stirred mixture of anhydrous aluminium chloride (21.36 g) and dichloromethane (200 ml), then the mixture was stirred at 0° C. for 30 minutes. A solution of 4-chloro-benzo[b]thiophene (13.46 g; prepared in a manner similar to that described above) in dichloromethane (100 ml) was added dropwise, and the mixture was stirred at 0° C. for 2 hours then it was poured onto ice-water (500 ml). The product was extracted into dichloromethane (2×250 ml) and the combined extracts were washed with water (200 ml), saturated aqueous sodium hydrogencarbonate solution (2×200 ml) and saturated aqueous sodium chloride solution (200 ml), then dried (Na2SO4). The solvent was removed in vacuo to leave a brown oil, which was purified by flash chromatography over silica using a 10:1 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl]ethan-1-one (2.8 g) as a colourless solid which was used without further purification.

reactant | Bromoacetyl bromide | 16.14 g | BrCC(=O)Br | C2H2Br2O
reactant | aluminium chloride | 21.36 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chloro-benzo[b]thiophene | ClC1=CC=CC=2SC=CC21 | C8H5ClS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl]ethan-1-one | 2.8 g | BrCC(=O)C1=CC2=C(S1)C=CC=C2Cl | C10H6BrClOS
